US06472386B1
Synthesis of N,N′-bis[3-(2-(3,4,5-Trimethoxyphenyl)-thiazol-4-yl)propyl]homopiperazine
4-(3-Methanesulfonyloxypropyl)-2-(3,4,5-trimethoxy-phenyl)thiazole (152 mg) and homopiperazine (20 mg) were reacted in the same manner in Example 1 to obtain the title compound as a free base.

reactant | 4-(3-Methanesulfonyloxypropyl)-2-(3,4,5-trimethoxy-phenyl)thiazole | 152 mg | CS(=O)(=O)OCCCC=1N=C(SC1)C1=CC(=C(C(=C1)OC)OC)OC | C16H21NO6S2
reactant | homopiperazine | 20 mg | N1CCNCCC1 | C5H12N2
product | N,N′-bis[3-(2-(3,4,5-Trimethoxyphenyl)-thiazol-4-yl)propyl]homopiperazine | COC=1C=C(C=C(C1OC)OC)C=1SC=C(N1)CCCN1CCN(CCC1)CCCC=1N=C(SC1)C1=CC(=C(C(=C1)OC)OC)OC | C35H46N4O6S2
